US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(3-methoxyphenyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 5-(3-methoxyphenyl)thiophene-2-sulfonyl chloride in 48% yield. This was purified by HPLC (5% CH3CN to 100% CH3CN over 30 min.) give a solid.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-(3-methoxyphenyl)thiophene-2-sulfonyl chloride | COC=1C=C(C=CC1)C1=CC=C(S1)S(=O)(=O)Cl | C11H9ClO3S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(3-methoxyphenyl)thiophene-2-sulfonamide | 48% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=CC(=CC=C1)OC)C | C15H13BrN2O4S2
